US07897619B2
tert-Butyl(S)-1-(5-(3-methyl-1H-indazol-5-yl)oxazol-2-ylamino)-1-oxo-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate:
This intermediate was prepared by EDC-HOBt coupling of 5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine with (S)-2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethyl)phenyl)propanoic acid (purchased from Peptech (CAS No. 114873-07-3)) using a standard procedure such as described in Bioorg. Med. Chem. 14(2), 418-425; 2006) which is hereby incorporated by reference in its entirety as if specifically set forth herein.

reactant | EDC HOBt | C(CCl)Cl.C=1C=CC2=C(C1)N=NN2O
reactant | 5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine | CC1=NNC2=CC=C(C=C12)C1=CN=C(O1)N | C11H10N4O
reactant | (S)-2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethyl)phenyl)propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C(F)(F)F | C15H18F3NO4
product | tert-Butyl(S)-1-(5-(3-methyl-1H-indazol-5-yl)oxazol-2-ylamino)-1-oxo-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | CC1=NNC2=CC=C(C=C12)C1=CN=C(O1)NC([C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)=O | C26H26F3N5O4
